US07514448B2
tert-Butyl 4-(1-tosyl-1H-pyrrolo[2,3-b]pyridin-3-yl)thiophen-2-ylcarbamate
3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1-tosyl-1H-pyrrolo[2,3-b]pyridine (398 mg, 1 mmol), tert-butyl 4-bromothiophen-2-ylcarbamate (190 mg, 0.68 mmol), potassium carbonate (310 mg, 2.25 mmol), and tetrakis(triphenylphosphine) palladium (0) (20 mg) were combined in 4 mL DME, 1 mL water, and heated to 160° C. in the microwave for 10 minutes, followed by 170° C. for 10 minutes. The reaction mixture was diluted with EtOAc and washed with saturated sodium bicarbonate. The organic layer was filtered through celite and concentrated to an oil which was purified by column chromatography on silica (15 to 60% EtOAc/hexanes) to give the product as a brown foam, 0.12 g, 0.26 mmol, 38% yield. MH+ 470.1.

reactant | 3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1-tosyl-1H-pyrrolo[2,3-b]pyridine | 1 mmol, 398 mg | CC1(OB(OC1(C)C)C1=CN(C2=NC=CC=C21)S(=O)(=O)C2=CC=C(C)C=C2)C | C20H23BN2O4S
reactant | tert-butyl 4-bromothiophen-2-ylcarbamate | 0.68 mmol, 190 mg | BrC=1C=C(SC1)NC(OC(C)(C)C)=O | C9H12BrNO2S
reactant | potassium carbonate | 2.25 mmol, 310 mg | C([O-])([O-])=O.[K+].[K+]
reactant | water | 1 mL | O | H2O
solvent | DME | 4 mL | COCCOC | C4H10O2
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | tetrakis(triphenylphosphine) palladium (0) | 20 mg | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | tert-Butyl 4-(1-tosyl-1H-pyrrolo[2,3-b]pyridin-3-yl)thiophen-2-ylcarbamate | 38% yield | S(=O)(=O)(C1=CC=C(C)C=C1)N1C=C(C=2C1=NC=CC2)C=2C=C(SC2)NC(OC(C)(C)C)=O | C23H23N3O4S2
